US09023843B2
3-[1-(3-Amino-propyl)-piperidin-4-yl]-7-[2-(3-fluoro-phenyl)-ethyl]-3H,9H-10-oxa-1,3,9-triaza-anthracen-2-one
To a solution of [3-(4-{7-[2-(3-fluoro-phenyl)-ethyl]-2-oxo-2,9-dihydro-10-oxa-1,3,9-triaza-anthracen-3-yl}-piperidin-1-yl)-propyl]-carbamic acid tert-butyl ester (94 mg, 0.167 mmol, 1 equiv) in dichloromethane (10 mL) at 23° C. was added trifluoroacetic acid (4.0 mL). The reaction was stirred for 30 min then concentrated. The residue was dissolved in water (10 mL) then treated with 1.0 N aqueous hydrochloric acid (2.0 mL). The resulting solution was concentrated, and then the residue was re-dissolved in water (10 mL), treated with hydrochloric acid (2.0 mL) and concentrated. The residue was dissolved in water (10 mL) and then the resulting solution was frozen and then lyophilized to give 88 mg (0.165 mmol, 99%) of the desired product (dihydrochloride salt) as a yellow solid. LCMS (EI): 464.1 (M+H)+.

reactant | [3-(4-{7-[2-(3-fluoro-phenyl)-ethyl]-2-oxo-2,9-dihydro-10-oxa-1,3,9-triaza-anthracen-3-yl}-piperidin-1-yl)-propyl]-carbamic acid tert-butyl ester | 0.167 mmol, 94 mg, 1 equiv | C(C)(C)(C)OC(NCCCN1CCC(CC1)N1C(N=C2NC3=CC(=CC=C3OC2=C1)CCC1=CC(=CC=C1)F)=O)=O | C31H38FN5O4
reactant | trifluoroacetic acid | 4.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-[1-(3-Amino-propyl)-piperidin-4-yl]-7-[2-(3-fluoro-phenyl)-ethyl]-3H,9H-10-oxa-1,3,9-triaza-anthracen-2-one | 0.165 mmol, 88 mg, 99% | NCCCN1CCC(CC1)N1C(N=C2NC3=CC(=CC=C3OC2=C1)CCC1=CC(=CC=C1)F)=O | C26H30FN5O2
